US07741320B2
Step C: 7-chloro-4-cyclopropylmethyl-3,4-dihydro-2H-1,2,4-benzothiadiazine 1,1-dioxide
To a solution of 7-chloro-4-cyclopropylmethyl-4H-1,2,4-benzothiadiazine 1,1-dioxide (0.7 g) in isopropanol (50 mL) there is added sodium borohydride (0.2 g) and the mixture is heated at 50° C. for 5 minutes. The reaction mixture is evaporated under reduced pressure and the residue is taken up in water (30 mL). The pH of the medium is adjusted to 5-6 by addition of 6N hydrochloric acid and the suspension is extracted three times with chloroform (30 mL). The organic phases are collected, dried over anhydrous MgSO4 and filtered. The filtrate is evaporated under reduced pressure and the residue is taken up in methanol (5 mL). Water (50 mL) is added to the methanolic solution and the precipitate which appears is collected by filtration, washed with water and dried.

reactant | 7-chloro-4-cyclopropylmethyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | 0.7 g | ClC1=CC2=C(N(C=NS2(=O)=O)CC2CC2)C=C1 | C11H11ClN2O2S
reactant | sodium borohydride | 0.2 g | [BH4-].[Na+]
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | 7-chloro-4-cyclopropylmethyl-3,4-dihydro-2H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(N(CNS2(=O)=O)CC2CC2)C=C1 | C11H13ClN2O2S
